US07273936B2
A solution of 2-bromo-1-(6-methyl-pyridin-2-yl)-2-quinolin-6-yl-ethanone hydrobromide (24.5 mg, 0.072 mmol), thiourea (7.5 mg, 0.094 mmol, 1.3 equiv), and potassium carbonate (0.11 mmol, 1.5 equiv) in ethanol (1 mL) is heated to 80° C. overnight. The resulting reaction mixture is cooled to ambient temperature and concentrated in vacuo. Reverse phase high pressure liquid chromatography (a gradient from 5-30% acetonitrile in 0.1% aqueous formic acid) provides 4-(6-Methyl-pyridin-2-yl)-5-quinolin-6-yl-thiazol-2-ylamine.

reactant | 2-bromo-1-(6-methyl-pyridin-2-yl)-2-quinolin-6-yl-ethanone hydrobromide | 0.072 mmol, 24.5 mg | Br.BrC(C(=O)C1=NC(=CC=C1)C)C=1C=C2C=CC=NC2=CC1
reactant | thiourea | 0.094 mmol, 7.5 mg, 1.3 equiv | NC(=S)N | CH4N2S
reactant | potassium carbonate | 0.11 mmol, 1.5 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(6-Methyl-pyridin-2-yl)-5-quinolin-6-yl-thiazol-2-ylamine | CC1=CC=CC(=N1)C=1N=C(SC1C=1C=C2C=CC=NC2=CC1)N | C18H14N4S
